US05439928
c) 1-benzyl-5-(1,3-diphenylpropyl)-1H-imidazole
1-benzyl-5-(1-hydroxy-1,3-diphenylpropyl)-1H-imidazole is treated with anhydrous potassium hydrogen sulphate at 150° C. as described in Example 7 e). The double bond of the obtained intermediate, 1-benzyl-5-(1,3-diphenyl-1-propenyl)-1H-imidazole, is hydrogenated as described in Example 7 f). M.p. of the hydrochloride salt is 154°-174° C. (from diethylether).

reactant | 1-benzyl-5-(1-hydroxy-1,3-diphenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=CC=C1)(C1=CC=CC=C1)O | C25H24N2O
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
reactant | 1-benzyl-5-(1,3-diphenyl-1-propenyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(=CCC1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2
solvent | diethylether | C(C)OCC | C4H10O
product | 1-benzyl-5-(1,3-diphenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2
